US04296126
57 ml of dimethylsulfoxide were added at 60°-65° C. to 5.7 g of a 50% oil-sodium hydride suspension and after cooling the mixture to 25° C., 10.55 g of N,N-dimethyl-3-phenyl-3-hydroxy-propanamine hydrochloride were added thereto under an inert atmosphere. The mixture stood at room temperature and 10.6 ml of 3-fluoro-nitrobenzene were added thereto. After standing at 25° C. for 18 hours, the mixture was extracted with methylene chloride and the organic phase was washed with water and evaporated to dryness under reduced pressure to obtain 25 g of raw product. The latter was extracted twice with 50 ml of N hydrochloric acid and the neutral fraction was extracted twice with 100 ml of ether. The aqueous phase was made alkaline with an excess of sodium hydroxide solution and was extracted with methylene chloride. The organic phase was washed with water and evaporated to dryness under reduced pressure to obtain 11 g of N,N-dimethyl-γ-(3-nitrophenoxy)-benzene-propanamine.

reactant | sodium hydride | [H-].[Na+]
reactant | N,N-dimethyl-3-phenyl-3-hydroxy-propanamine hydrochloride | 10.55 g | Cl.CN(CCC(O)C1=CC=CC=C1)C
reactant | 3-fluoro-nitrobenzene | 10.6 ml | FC=1C=C(C=CC1)[N+](=O)[O-] | C6H4FNO2
solvent | dimethylsulfoxide | 57 ml | CS(=O)C | C2H6OS
product | N,N-dimethyl-γ-(3-nitrophenoxy)-benzene-propanamine | 11 g | CN(CCC(C1=CC=CC=C1)OC1=CC(=CC=C1)[N+](=O)[O-])C | C17H20N2O3
